datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCCC[NH:10]C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCCC[NH+:10](C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"O=C([O-])C1(C(=O)[O-:10])CCCC1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])C1(C(=O)[O:10][H:20])CCCC1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C(Oc1ccc([N+](=O)[O-])cc1)[C@H]1CCCC[C@@H]1[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(Oc1ccc([N+](=O)[O-])cc1)[C@H]1CCCC[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"O=C([O-])[C@@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O-:10])c1ccccc1O.[O-]c1ccccc1C1=[N+:21]([H:20])CCN1>>O=C([O-])[C@@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O:10][H:20])c1ccccc1O.[O-]c1ccccc1C1=[N:21]CCN1 10=20;20,21=21",
"CCC(=O)C(CC(C)[N+:21]1([H:20])CCOCC1)(c1ccccc1)c1ccccc1.O=C([O-])CC(c1ccccn1)[NH2:10]>>CCC(=O)C(CC(C)[N:21]1CCOCC1)(c1ccccc1)c1ccccc1.O=C([O-])CC(c1ccccn1)[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)[N:10]1CCCCC1.O=C([O-])/C=C\c1c[nH]c[n+:21]1[H:20]>>CC(C)[N+:10]1([H:20])CCCCC1.O=C([O-])/C=C\c1c[nH]c[n:21]1 10=20;20,21=21",
"CN(C)C(=S)OCC(=O)[O:21][H:20].O=C([O-])CCCc1c[nH]c[n:10]1>>CN(C)C(=S)OCC(=O)[O-:21].O=C([O-])CCCc1c[nH]c[n+:10]1[H:20] 10=20;20,21=21",
"FC(F)C[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>FC(F)C[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C[Si](C)(CCl)CCCC(=O)[O-:10].c1ncc2c(n1)nc[n:21]2[H:20]>>C[Si](C)(CCl)CCCC(=O)[O:10][H:20].c1ncc2c(n1)nc[n-:21]2 10=20;20,21=21",
"CCNc1nc(N)[n:10]c(NCC)n1.O=C([O-])C[NH+](CC[N:21](S(=O)(=O)c1ccc(CCBr)cc1)[H:20])CC(=O)[O-]>>CCNc1nc(N)[n+:10]([H:20])c(NCC)n1.O=C([O-])C[NH+](CC[N-:21]S(=O)(=O)c1ccc(CCBr)cc1)CC(=O)[O-] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20].O=CN1CC[NH:10]CC1>>O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-].O=CN1CC[NH+:10]([H:20])CC1 10=20;20,21=21",
"CN(CC[NH+](C)C)CC[NH2:10].C[C@]1([NH3+])C[C@]1(C)[NH2+:21][H:20]>>CN(CC[NH+](C)C)CC[NH2+:10][H:20].C[C@]1([NH3+])C[C@]1(C)[NH2:21] 10=20;20,21=21",
"CC1CNCc2ccccc2OCCOc2ccccc2C[NH:10]1.NC(=O)c1cc(-c2ccccc2)nnc1[N:21](CCN1CCOCC1)[H:20]>>CC1CNCc2ccccc2OCCOc2ccccc2C[NH+:10]1[H:20].NC(=O)c1cc(-c2ccccc2)nnc1[N-:21]CCN1CCOCC1 10=20;20,21=21",
"CCC(C)[NH:10]CC(C)C.Cc1cccc([NH+:21](c2ccccc2)[H:20])c1>>CCC(C)[NH+:10](CC(C)C)[H:20].Cc1cccc([NH:21]c2ccccc2)c1 10=20;20,21=21",
"COC([OH2+])[O-:10].C[C@H]1[C@H]([NH3+])[C@@H]1[NH2+:21][H:20]>>COC([OH2+])[O:10][H:20].C[C@H]1[C@H]([NH3+])[C@@H]1[NH2:21] 10=20;20,21=21",
"CCCCC[NH:10]CCCCC.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CCCCC[NH+:10](CCCCC)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC(=C/C=C/C(C)C(=O)O)[C@H]1C[NH2+][C@H](C(=O)[O-:10])[C@H]1CC(=O)O.Oc1cc[n+]([O:21][H:20])cc1>>CC(=C/C=C/C(C)C(=O)O)[C@H]1C[NH2+][C@H](C(=O)[O:10][H:20])[C@H]1CC(=O)O.Oc1cc[n+]([O-:21])cc1 10=20;20,21=21",
"CC(CCc1ccc(O)cc1)[NH2+:21][H:20].COc1ccc[n:10]c1C=O>>CC(CCc1ccc(O)cc1)[NH2:21].COc1ccc[n+:10]([H:20])c1C=O 10=20;20,21=21",
"OC[OH+:21][H:20].Oc1c(I)cc(I)c2ccc[n:10]c12>>OC[OH:21].Oc1c(I)cc(I)c2ccc[n+:10]([H:20])c12 10=20;20,21=21",
"CCc1cc([O:21][H:20])cc(C)c1Cl.O=C1C=CC=CC=C1[S-:10]>>CCc1cc([O-:21])cc(C)c1Cl.O=C1C=CC=CC=C1[S:10][H:20] 10=20;20,21=21",
"CCCc1ccccc1[NH2:10].Nc1ccc[n+:21]([H:20])c1>>CCCc1ccccc1[NH2+:10][H:20].Nc1ccc[n:21]c1 10=20;20,21=21",
"CCN[N:10](C)C.NNC(=O)c1cc[n+:21]([H:20])cc1>>CCN[N+:10](C)(C)[H:20].NNC(=O)c1cc[n:21]cc1 10=20;20,21=21",
"CC[NH2+]C(=CC(=O)c1cccc(S(=O)(=O)[O-])c1)n1cc[n+:21]([H:20])c1.O=C(c1ccccc1)N1CC(=O)[N-:10]C1=S>>CC[NH2+]C(=CC(=O)c1cccc(S(=O)(=O)[O-])c1)n1cc[n:21]c1.O=C(c1ccccc1)N1CC(=O)[N:10]([H:20])C1=S 10=20;20,21=21",
"C#C[C@]1(O)C[C@@H](C)[N+:21](C)([H:20])[C@@H]2CCCC[C@H]21.N#CC(C#N)=N[N-:10]c1cccc(Cl)c1>>C#C[C@]1(O)C[C@@H](C)[N:21](C)[C@@H]2CCCC[C@H]21.N#CC(C#N)=N[N:10](c1cccc(Cl)c1)[H:20] 10=20;20,21=21",
"COC(=O)C1=CN([NH2:10])C(=O)C(Br)=C1.O=C(/C=C(\I)c1ccccc1)[O:21][H:20]>>COC(=O)C1=CN([NH2+:10][H:20])C(=O)C(Br)=C1.O=C(/C=C(\I)c1ccccc1)[O-:21] 10=20;20,21=21",
"Cc1ccccc1/C(=N\CCC[N:10](C)C)c1cccc2ccccc12.c1ccc(C[NH2+]CC[NH2+:21][H:20])cc1>>Cc1ccccc1/C(=N\CCC[N+:10](C)(C)[H:20])c1cccc2ccccc12.c1ccc(C[NH2+]CC[NH2:21])cc1 10=20;20,21=21",
"CC(C)CCS/C(c1ccccc1)=[NH+:21]\[H:20].CNc1nc(C)[n:10]c2c1cnn2C>>CC(C)CCSC(c1ccccc1)=[NH:21].CNc1nc(C)[n+:10]([H:20])c2c1cnn2C 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)[N-:10]CCC(=[NH2+])N(C)C)cc1.O=[N+]([O-])[N-]c1nc[n:21]([H:20])n1>>Cc1ccc(S(=O)(=O)[N:10](CCC(=[NH2+])N(C)C)[H:20])cc1.O=[N+]([O-])[N-]c1nc[n-:21]n1 10=20;20,21=21",
"CC(C)[O-:10].O=C(C1=CN=CC=C1)[CH:21](C1=CC=CC(Cl)=C1)[H:20]>>CC(C)[O:10][H:20].O=C(C1=CN=CC=C1)[CH-:21]C1=CC=CC(Cl)=C1 10=20;20,21=21",
"CC(OCC[N+:21](C)(C)[H:20])(c1ccccc1)c1ccccc1.Cc1nn(-c2ccccc2)c([O-:10])c1C1CCCCC1>>CC(OCC[N:21](C)C)(c1ccccc1)c1ccccc1.Cc1nn(-c2ccccc2)c([O:10][H:20])c1C1CCCCC1 10=20;20,21=21",
"CC(C)(C)C1C(=O)NC(=O)[N-:10]C1=O.CC[N+:21](CC)(CCCNC(=O)/C=N/[O-])[H:20]>>CC(C)(C)C1C(=O)NC(=O)[N:10]([H:20])C1=O.CC[N:21](CC)CCCNC(=O)/C=N/[O-] 10=20;20,21=21",
